US08377930B2
2-Methoxy-2-(naphthalen-2-yl)acetohydrazide
A stirred solution of methyl 2-methoxy-2-(naphthalen-2-yl)acetate (0.358 g, 1 eq) and hydrazine hydrate (4 mL) was heated to reflux for 1 hour. The reaction mixture was then cooled and the solvents removed under reduced pressure. The crude oil was diluted with EtOAc and washed with H2O and the organic phase dried over Na2SO4, filtered, and the solvents removed under reduced pressure to yield a yellow oil (0.17 g, 47%) that was used without further purification.

reactant | methyl 2-methoxy-2-(naphthalen-2-yl)acetate | 0.358 g, 1 eq | COC(C(=O)OC)C1=CC2=CC=CC=C2C=C1 | C14H14O3
reactant | hydrazine hydrate | 4 mL | O.NN
product | 2-Methoxy-2-(naphthalen-2-yl)acetohydrazide | 0.17 g, 47% | COC(C(=O)NN)C1=CC2=CC=CC=C2C=C1 | C13H14N2O2
